US04478841
A solution of 10.3 g of 3-[2-(4-pyridyl)-ethyl]-indole (prepared according to U.S. Pat. No. 3,300,506) in 400 ml n-butanol was heated, under nitrogen, at a temperature of approximately 90° C. Thereafter, 8 g of sodium were added portionwise while agitating magnetically and the temperature was raised to and maintained at about 110° C. until the sodium disappeared. Once the ambient temperature had been restored, the solution was poured into 400 ml water, the organic phase washed with water until it became neutral and then was dried over sodium sulfate and evaporated under vacuum. The evaporation residue was mixed with 25 ml absolute ethanol and purified by means of chromatography over silica gel, (eluant: ethanol-diethylamine=40-1). Following two processes of crystallization in methanol, 2.6 g of 3-[2-(1,2,5,6-tetrahydro-4-pyridyl)-ethyl]-indole were obtained, which melted at 155° C.

reactant | 3-[2-(4-pyridyl)-ethyl]-indole | 10.3 g | N1=CC=C(C=C1)CCC1=CNC2=CC=CC=C12 | C15H14N2
reactant | sodium | 8 g | [Na] | Na
reactant | water | 400 ml | O | H2O
solvent | n-butanol | 400 ml | C(CCC)O | C4H10O
product | 3-[2-(1,2,5,6-tetrahydro-4-pyridyl)-ethyl]-indole | 2.6 g | N1CC=C(CC1)CCC1=CNC2=CC=CC=C12 | C15H18N2
